US07641914B2
2) Preparation of 4-{4-[(2-{3-[bis(3-aminopropyl)-amino]propylamino}acetylamino)methyl]-[1,3]dioxolan-2-yloxy}-N,N-ditetradecylbutyramide
2.1 g of 4-[4-({2-[(3-{bis[3-(2,2,2-trifluoroacetylamino)propyl]amino}propyl)trifluoro-acetylamino]acetylamino}methyl)-[1,3]dioxolan-2-yloxy]-N,N-ditetradecylbutyramide (1.88 mmol) were dissolved in 30 ml of tetrahydrofuran, and 30 ml of molar sodium hydroxide at 4% were added, with vigorous stirring. The reaction was left overnight at room temperature.

reactant | 4-[4-({2-[(3-{bis[3-(2,2,2-trifluoroacetylamino)propyl]amino}propyl)trifluoro-acetylamino]acetylamino}methyl)-[1,3]dioxolan-2-yloxy]-N,N-ditetradecylbutyramide | 1.88 mmol, 2.1 g | FC(C(=O)NCCCN(CCCN(CC(=O)NCC1OC(OC1)OCCCC(=O)N(CCCCCCCCCCCCCC)CCCCCCCCCCCCCC)C(C(F)(F)F)=O)CCCNC(C(F)(F)F)=O)(F)F | C53H93F9N6O8
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-{4-[(2-{3-[bis(3-aminopropyl)-amino]propylamino}acetylamino)methyl]-[1,3]dioxolan-2-yloxy}-N,N-ditetradecylbutyramide | NCCCN(CCCNCC(=O)NCC1OC(OC1)OCCCC(=O)N(CCCCCCCCCCCCCC)CCCCCCCCCCCCCC)CCCN | C47H96N6O5
